US04929613
4-[3-(Acetylamino)cyclopentyl]-α-(ethoxymethylene)-2,5-difluoro-β-oxobenzenepropanoic acid, ethyl ester.
A solution of 17.7 g (50 mmol) of 4-[3-(acetylamino)cyclopentyl]-2,5-difluoro-β-oxobenzenepropanoic acid, ethyl ester, 11.1 g (75 mmol) triethyl orthoformate and 75 ml of acetic anhydride was refluxed for 3 hours. The solvent was removed in vacuo and the residue triturated with toluene which was also removed in vacuo, then in high vacuo at 50°. The residue, 20.1 g, was used without further purification.

reactant | 4-[3-(acetylamino)cyclopentyl]-2,5-difluoro-β-oxobenzenepropanoic acid, ethyl ester | 50 mmol, 17.7 g | C(C)(=O)NC1CC(CC1)C1=CC(=C(C=C1F)C(CC(=O)OCC)=O)F | C18H21F2NO4
reactant | triethyl orthoformate | 75 mmol, 11.1 g | C(OCC)(OCC)OCC | C7H16O3
reactant | acetic anhydride | 75 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 4-[3-(Acetylamino)cyclopentyl]-α-(ethoxymethylene)-2,5-difluoro-β-oxobenzenepropanoic acid, ethyl ester | C(C)(=O)NC1CC(CC1)C1=CC(=C(C=C1F)C(C(C(=O)OCC)=COCC)=O)F | C21H25F2NO5
